US04337250
3-(4-Chloro-1-butyl)-2-oxazolidinone
Following the procedure of Piper et al. [J. Het. Chem. 4, p. 298 (1967)], sodium hydride (4.8 g of 50% dispersion in oil, 0.1 mole) was washed with pentane and suspended in 20 ml of dimethylformamide. A solution of 2-oxazolidinone (8.7 g, 0.10 mole) and 1,4-dichlorobutane (66 g, 0.52 mole) in 100 ml of dimethylformamide was then added dropwise over 30 minutes, maintaining the reaction temperature at 25°-30° C. The reaction was stirred for 18 hours at ambient temperature, then evaporated to an oil, and the oil taken up in ethyl acetate, treated with activated carbon, filtered over diatomaceous earth, and reevaporated in vacuo to yield the title product as an oil [16.5 g, contaminated with mineral oil from incompletely washed sodium hydride; pnmr/CDCl3 /delta: 0.67-1.0 and 1.03-1.4 (mineral oil), 1.4-1.83 (m, 4H), 3.03-3.72 (m, 6H), 4.10-4.43 (t, 2H)].

reactant | sodium hydride | 0.1 mole, 4.8 g | [H-].[Na+]
reactant | 2-oxazolidinone | 0.10 mole, 8.7 g | O1C(NCC1)=O | C3H5NO2
reactant | 1,4-dichlorobutane | 0.52 mole, 66 g | ClCCCCCl | C4H8Cl2
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 3-(4-Chloro-1-butyl)-2-oxazolidinone | ClCCCCN1C(OCC1)=O | C7H12ClNO2
